US07494999B2
Triethylamine (200 μL, 1.4349 mmol) and phosphorus oxychloride (74 μL, 0.7939 mmol) were added to a solution of 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid amide (254 mg, 0.5105 mmol) in dichloroethane (3 mL). The reaction was stirred for 4 h at room temperature then directly purified by silica gel column chromatography (0-50% EtOAc in hexanes) to afford 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carbonitrile (23 mg, 9%). 1H NMR (400 MHz, CD3OD) δ ppm 7.77 (d, 1H), 7.54 (d, 1H), 7.42 (t, 1H), 7.10 (d, 2H), 6.93 (d, 2H), 4.20-4.00 (m, 2H), 3.65-3.60 (m, 1H), 3.60-3.40 (m, 2H), 3.40-3.20 (m, 4H), 2.80-2.60 (m, 2H), 1.50 (d, 6H). LCMS: 480.0 (M+1)+.

reactant | Triethylamine | 1.4349 mmol, 200 μL | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 0.7939 mmol, 74 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carboxylic acid amide | 0.5105 mmol, 254 mg | C[C@@H]1N([C@@H](CN(C1)C1=CC=C(C=C1)OC(F)(F)F)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C(=O)N | C23H26F3N3O4S
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carbonitrile | 23 mg, 9% | C[C@@H]1N([C@@H](CN(C1)C1=CC=C(C=C1)OC(F)(F)F)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C#N | C23H24F3N3O3S
